US06806230B1
0.4 g (0.2 mmol) of [1-(4-ethyl-pyrimidin-5-yl)-propyl]-methyl-amine was dissolved in 20 ml of pyridine, and 0.43 g (0.22 mmol) of p-fluorobenzenesulfonyl chloride was dropwise added, followed by stirring at room temperature for 10 hours. To the reaction solution, 50 ml of water was added, followed by extraction with diethyl ether. The obtained organic phase was washed twice with 30 ml of a dilute citric acid aqueous solution and then dried over anhydrous magnesium sulfate. Diethyl ether was distilled off under reduced pressure, and the obtained crude product was purified by silica gel chromatography (developing solvent/n-hexane:ethyl acetate 4:1 to 1:1) to obtain 0.4 g (yield: 56%) of (N-[1-(4-ethyl-pyrimidin-5-yl)-2-methylpropyl]-4-fluoro-N-methyl-benzenesulfonamide as a colorless oil (nD20=1.5399).

reactant | [1-(4-ethyl-pyrimidin-5-yl)-propyl]-methyl-amine | 0.2 mmol, 0.4 g | C(C)C1=NC=NC=C1C(CC)NC | C10H17N3
reactant | p-fluorobenzenesulfonyl chloride | 0.22 mmol, 0.43 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | water | 50 ml | O | H2O
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-[1-(4-ethyl-pyrimidin-5-yl)-2-methylpropyl]-4-fluoro-N-methyl-benzenesulfonamide | yield: 56% | C(C)C1=NC=NC=C1C(C(C)C)N(S(=O)(=O)C1=CC=C(C=C1)F)C | C17H22FN3O2S
